US05221753
10.8 g (400 mmol) of Mg turnings are introduced into 30 ml of tetrahydrofuran containing a catalytic amount of iodine, and 5 ml of 4-chlorotetrahydropyran are added. The mixture is warmed to 50° C., and 45.2 g (375 mmol) of 4-chlorotetrahydropyran, dissolved in 120 ml of tetrahydrofuran, are added dropwise at such a rate that the internal temperature does not exceed 70° C. The mixture is stirred for a further 1 hour and subsequently cooled to room temperature. 42.4 g (375 mmol) of 1-(dimethylamino)but-1-en-3-one are added dropwise to the stirred mixture at such a rate that the reaction temperature does not exceed 30° C. The mixture is subsequently stirred for a further 2 hours and hydrolyzed, and the pH of the solution is adjusted to exactly 7. The phases are separated, and the aqueous phase is extracted several times with 200 ml of ethyl acetate or methyl tert.-butyl ether, dried and subjected to fractional distillation, to give 42.0 g (75%) of 1-(4-tetrahydropyranyl)but-1-en-3-one of boiling point 93° to 95° C./5 mmHg.

reactant | iodine | II | I2
reactant | 4-chlorotetrahydropyran | 5 ml | ClC1CCOCC1 | C5H9ClO
reactant | 4-chlorotetrahydropyran | 375 mmol, 45.2 g | ClC1CCOCC1 | C5H9ClO
reactant | 1-(dimethylamino)but-1-en-3-one | 375 mmol, 42.4 g | CN(C=CC(C)=O)C | C6H11NO
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(4-tetrahydropyranyl)but-1-en-3-one | 42.0 g, 75% | O1CCC(CC1)C=CC(C)=O | C9H14O2
